US07829707B2
1-(1H-Imidazol-5-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
3-Amino-1H-pyrrole-2-carboxylic acid ethyl ester hydrochloride (0.10 g, 0.52 mmol) was dissolved in methanol (4 mL) and 4-formylimidazole (0.060 g, 0.63 mmol), NaCNBH3 (0.033 g, 0.52 mmol) and Et3N (0.073 g, 0.52 mmol) were added. The resulting mixture was stirred at r.t. overnight. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (3 mL) and methanol (1 mL). Benzoyl isothiocyanate (0.078 mL, 0.58 mmol) was added and after stirring at r.t. for 30 minutes the mixture was concentrated in vacuo. The residue was dissolved in ammonia (7N in methanol, 3 mL) and heated at 80° C. for 1 h. The precipitated product was filtered and washed with methanol, followed by diethyl ether. The crude product was purified by preparative HPLC, obtaining 0.017 g (13%) of the title compound as a solid.

reactant | 3-Amino-1H-pyrrole-2-carboxylic acid ethyl ester hydrochloride | 0.52 mmol, 0.10 g | Cl.C(C)OC(=O)C=1NC=CC1N
reactant | 4-formylimidazole | 0.63 mmol, 0.060 g | C(=O)C=1N=CNC1 | C4H4N2O
reactant | NaCNBH3 | 0.52 mmol, 0.033 g | [BH3-]C#N.[Na+]
reactant | Et3N | 0.52 mmol, 0.073 g | CCN(CC)CC | C6H15N
reactant | Benzoyl isothiocyanate | 0.58 mmol, 0.078 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | methanol | 4 mL | CO | CH4O
product | 1-(1H-Imidazol-5-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.017 g, 13% | N1C=NC=C1CN1C(NC(C2=C1C=CN2)=O)=S | C10H9N5OS
